US03937805
1,6-di-(p-chlorophenyl biguanido) hexane monofluorophosphate is prepared by mixing dilute stoichiometric solutions of 1,6-di-(p-chlorophenyl biguanido) hexane digluconate and sodium monofluorophosphate in water to obtain an off-white oily precipitate of water-insoluble 1,6-di-(p-chlorophenyl biguanido) hexane monofluorophosphate, having a melting point of 183°-184°C.

reactant | hexane digluconate | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O.O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O.CCCCCC
reactant | sodium monofluorophosphate | P(=O)([O-])([O-])F.[Na+].[Na+]
solvent | water | O | H2O
product | hexane monofluorophosphate | P(=O)(O)(O)F.CCCCCC | InChI=1S/C6H14.FH2O3P/c1-3-5-6-4-2;1-5(2,3)4/h3-6H2,1-2H3;(H2,2,3,4)
